US09056873B2
A solution of tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (300 mg, 0.601 mmol), 5-fluorobenzo[b]thiophen-2-ylboronic acid (236 mg, 1.202 mmol) and tetrakis(triphenylphosphine)palladium(0) (695 mg, 0.601 mmol) in dioxane and saturated aqueous NaHCO3 (1:1, 5 mL) was heated to 120° C. via microwave irradiation for 30 minutes. After the solvent was removed, the crude product was purified by silica gel column chromatography, eluting with a gradient of 10-50% EtOAc and hexane over a period of 60 minutes. The fractions were collected to give the intermediate, tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-4-(5-fluorobenzo[b]thiophen-2-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was first dissolved in DCM (3 mL) then TFA/DCM (1:1, 10 mL) and the mixture was stirred at 60° C. for 1 hour. After solvent was removed, the resulting crude material was reconstituted in MeOH/DMF/DCM (30.0 mL) and purified via preparative mass trigger LCMS, eluting with gradient of 30-40 ACN (0.035% TFA) and H2O (0.05% TFA). The collected fractions were combined and ACN was removed via rotary evaporation. The mixture was neutralized with saturated aqueous NaHCO3, washed with EtOAc (2×300 mL), dried over Na2SO4, and filtered. The organic phase was stripped to dryness via rotary evaporation to give the title compound (77 mg, 31%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.36-2.09 (m, 8H), 3.82 (br s, 1H), 4.31 (d, J=1.95 Hz, 1H), 4.42-4.53 (m, 2H), 7.13 (d, J=5.86 Hz, 1H), 7.27 (td, J=8.91, 2.69 Hz, 1H), 7.56-7.82 (m, 3H), 7.94-8.04 (m, 1H), 8.64 (s, 1H), 9.41 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C21H20F2N4OS, 415. found, 415.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.601 mmol, 300 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
reactant | 5-fluorobenzo[b]thiophen-2-ylboronic acid | 1.202 mmol, 236 mg | FC1=CC2=C(SC(=C2)B(O)O)C=C1 | C8H6BFO2S
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.601 mmol, 695 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-4-(5-fluorobenzo[b]thiophen-2-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC3=C(S1)C=CC(=C3)F)C(N(C2)C(=O)OC(C)(C)C)=O)F | C31H36F2N4O5S
